US06780883B2
Biphenyl-2-ylmethyl-(3,4-dimethoxy-phenyl)-amine
Potassium carbonate (1.38 g, 10 mmol), catalytic amount of potassium iodide, and 3,4-dimethoxyaniline (1.53 g 10 mmol) were added to a solution of 2-(bromomethyl)biphenyl (1.83 mL, 10 mmol) in acetonitrile (200 mL). The reaction mixture was heated and stirred at 80° C. for 18 hours, then was cooled to room temperature. The solid was filtered and the filtrate concentrated to dryness. Purification by silica gel column chromatography using 20% ethyl acetate in hexanes as the eluant afforded the pure product (1.04 g). MH+320: 1H (CDCl3) δ 3.77 (3H, s), 3.78 (3H, s), 4.21 (2H, s), 6.05 (1H, dd, J=8, 3), 6.14 (1H, m) 6.67 (1H, d, J=8), 7.28-7.42 (8H, m), 7.54 (1H, m).

reactant | Potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 3,4-dimethoxyaniline | 10 mmol, 1.53 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | 2-(bromomethyl)biphenyl | 10 mmol, 1.83 mL | BrCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Br
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Biphenyl-2-ylmethyl-(3,4-dimethoxy-phenyl)-amine | 1.04 g | C1(=C(C=CC=C1)CNC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C21H21NO2
